US06340759B1
(167-1) 4-Methyl-5-(2-benzyloxyethyl)thiazole
2-(4-Methyl-5-thiazolyl)ethanol (25.71 g) was dissolved in tetrahydrofuran (200 ml), followed by the addition of 60% sodium hydride (7.185 g) under ice-cooling. The resulting mixture was stirred at room temperature for 1 hr. Thereafter, the it was ice-cooled again, followed by the addition of benzyl bromide (21.4 ml) and tetrabutylammonium bromide (665 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (39.059 g, yield; 93%).

reactant | 2-(4-Methyl-5-thiazolyl)ethanol | 25.71 g | CC=1N=CSC1CCO | C6H9NOS
reactant | sodium hydride | 7.185 g | [H-].[Na+]
reactant | benzyl bromide | 21.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 665 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Methyl-5-(2-benzyloxyethyl)thiazole | 39.059 g, yield; 93% | CC=1N=CSC1CCOCC1=CC=CC=C1 | C13H15NOS
